US05506215
Preparation of 1-(2',3'-anhydro-5'-O-trityl-β-D-lyxofuranosyl)thymine (VSB-020)
The title compound was prepared by a 5-step sequence reaction. Thymine (12,6 g) was treated with hexamethyldisilazane and 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (50 g) was added. The 1-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)thymine obtained was treated with sodium methoxide and gave 1-(β-D-ribofuranosyl)thymine (23 g). Then said substance was treated with tritylchloride and methylsulfonylchloride and 1-(2',3'-di-O-methylsulfonyl-5'-O-trityl-β-D-ribofuranosyl)thymine (39 g) was obtained. Said substance was treated with sodium hydroxide and gave the title compound 1-(2'-3'-anhydro-5'-O-trityl-β-D-lyxofuranosyl)thymine (VSB-020) 19.2 g. Yield 43%. 1H-NMR (DMSO-d6) δ: 1.66 (s, 3H, 5-CH3), 3.24-3.34 (m, 2H, 5'-H), 4.08 (s, 2H, 2'-H and 3'-H), 4.25 (t, 1H, 4'-H), 6.13 (s, 1H, 1'-H), 7.30-7.45 (m, 16H, trityl H and 6-H), 14.46 (s, 1H, N--H).

reactant | Thymine | 12,6 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 50 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
product | 1-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)thymine | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C(C)=C1 | C31H26N2O9
